* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1022.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
V2 -V 0 -15
R1 N002 N001 10K
R2 N001 IN 10K
V3 IN 0 SINE(0 1 10K)
X§U1 0 N001 +V -V N004 LT1022
X§U2 N005 N003 +V -V OUT LT1022
D1 N002 N004 1N4148
D2 N004 N005 1N4148
R3 N005 N001 10K
C1 N002 N001 10p
R4 N003 N002 10K
R5 OUT N003 10K
C2 OUT N003 10p
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 1m
* Wide Bandwidth Absolute Value Circuit
.lib LTC.lib
.backanno
.end
